US04125518
Preparation of 3-Methyl-3-Methylol-1-Oxa-4-Azaspiro[4.5]Decane
The procedure of Example 1 was employed utilizing 2-amino-2-methyl-1,3-propanediol (42.05 grams; 0.4 mole) and cyclohexanone (39.26 grams; 0.4 mole) in 250 mls of toluene. After removing the toluene, the residue was distilled to obtain 37.7 grams (50.8% of theoretical; b.p. 120° C. at 2.0 mm.) of the desired compound.

reactant | 2-amino-2-methyl-1,3-propanediol | 0.4 mole, 42.05 grams | NC(CO)(CO)C | C4H11NO2
reactant | cyclohexanone | 0.4 mole, 39.26 grams | C1(CCCCC1)=O | C6H10O
solvent | toluene | 250 mls | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-3-Methylol-1-Oxa-4-Azaspiro[4.5]Decane | CC1(COC2(N1)CCCCC2)CO | C10H19NO2
